US08026234B2
Compound 113: (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)benzamide
The title compound was synthesized from (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid as described in the general procedure for amide bond synthesis using HATU and 4-amino 1-methylpiperidine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.19-1.90 (m, 8H) 2.05 (dd, J=4.29, 1.52 Hz, 4H) 2.16-2.28 (m, 2H) 2.34 (s, 3H) 2.83 (br. s., 2H) 3.39 (s, 3H) 3.69-3.89 (m, 2H) 3.96 (s, 3H) 4.00-4.10 (m, 1H) 4.97 (quin, J=8.46 Hz, 1H) 5.37 (d, J=11.12 Hz, 1H) 5.50 (dd, J=17.30, 1.89 Hz, 1H) 6.02 (ddd, J=17.30, 14.53, 10.86 Hz, 1H) 6.67 (d, J=7.07 Hz, 1H) 7.56 (d, J=7.07 Hz, 1H) 7.76 (s, 1H) 7.96 (s, 1H) 8.37 (d, J=15.16 Hz, 1H), [M+H] calc'd for C29H37F2N7O3 570. found 570.

reactant | (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C23H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-amino 1-methylpiperidine | NC1CCN(CC1)C | C6H14N2
product | (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-N-(1-methylpiperidin-4-yl)benzamide | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1CCN(CC1)C)C=C2OC)F | C29H37F2N7O3
